US07973061B2
2-Aminomethyl-thiazole-4-carboxylic acid [2-(3-chlorophenyl)ethyl]amide:
To a solution of {4-[2-(3-Chlorophenyl)ethylcarbamoyl]thiazol-2-ylmethyl}carbamic acid tert-butyl ester (0.73 g, 1.8 mmol) in methanol (10 mL) was added HCl in dioxane (4M solution, 10 mL). The mixture stirred for 12 hours. The methanol and dioxane were removed in vacuo and the resulting solid was vigorously mixed with 0.1 N NaOH and methylene chloride. The layers were separated and the aqueous layer was extracted with methylene chloride. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound as a solid. 1H NMR (400 MHz, d6-DMSO): 8.39 (br s, 1H), 8.08 (s, 1H) 7.25 (m, 4H), 4.00 (s, 2H), 3.48 (m, 2H), 2.84 (t, 2H), 2.41 (br s, 2H); MS (ESI-LCMS) for C13H14ClN3OS: 296 (MH+).

reactant | {4-[2-(3-Chlorophenyl)ethylcarbamoyl]thiazol-2-ylmethyl}carbamic acid tert-butyl ester | 1.8 mmol, 0.73 g | C(C)(C)(C)OC(NCC=1SC=C(N1)C(NCCC1=CC(=CC=C1)Cl)=O)=O | C18H22ClN3O3S
reactant | HCl | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 4M, 10 mL | O1CCOCC1 | C4H8O2
product | 2-Aminomethyl-thiazole-4-carboxylic acid [2-(3-chlorophenyl)ethyl]amide | ClC=1C=C(C=CC1)CCNC(=O)C=1N=C(SC1)CN | C13H14ClN3OS
